US05665718
40 g (228 mmol) of chloroacetic anhydride were added portionwise to a suspension of 50 g (228 mmol) of (E and/or Z)-N'-hydroxy-1,3-dioxo-2-isoindolineacetamidine in 1 l of dimethylformamide, whereupon the mixture was stirred at room temperature for two hours. Subsequently, it was heated to 100° for 20 hours. The brown solution was evaporated and partitioned between methylene chloride and water. The aqueous phase was back-washed once with methylene chloride. The organic phases were dried with magnesium sulfate, filtered and evaporated. The residue was chromatographed (silica gel, methylene chloride/ethyl acetate 20:1) and subsequently crystallized from methylene chloride/diethyl ether. There were obtained 36 g (57%) of 2-(5-chloromethyl-1,2,4-oxadiazol-3-ylmethyl)-2,3-dihydro-1H-isoindole-1,3-dione of m.p. 96.5°-98°.

reactant | chloroacetic anhydride | 228 mmol, 40 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | N'-hydroxy-1,3-dioxo-2-isoindolineacetamidine | ON=C(CN1C(C2=CC=CC=C2C1=O)=O)N | C10H9N3O3
solvent | dimethylformamide | 1 l | CN(C=O)C | C3H7NO
product | 2-(5-chloromethyl-1,2,4-oxadiazol-3-ylmethyl)-2,3-dihydro-1H-isoindole-1,3-dione | 36 g, 57% | ClCC1=NC(=NO1)CN1C(C2=CC=CC=C2C1=O)=O | C12H8ClN3O3
